US08604061B2
To a stirred solution of (E)-(S)-2-amino-4-phenyl-hex-3-en-1-ol (1.0 g) at r.t. in methanol (50 ml) under an argon atmosphere was added 10% Pd/C (278 mg). The mixture was stirred at r.t. under a hydrogen atmosphere for 30 min. The catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (SiO2; gradient: dichloromethane/methanol) to give (S)-2-amino-4-phenyl-hexan-1-ol (mainly one epimer) (0.81 g, 80%) as a colourless oil. MS (ISP): 194.4 ([M+H ]+).

reactant | (E)-(S)-2-amino-4-phenyl-hex-3-en-1-ol | 1.0 g | N[C@H](CO)\C=C(/CC)\C1=CC=CC=C1 | C12H17NO
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 278 mg | [Pd] | Pd
product | (S)-2-amino-4-phenyl-hexan-1-ol | N[C@H](CO)CC(CC)C1=CC=CC=C1 | C12H19NO
